US05760264
(R,R)-1,1'-Bis[1-(dimethylamino)ethyl]ferrocene
32.7 g (about 111 mmol) of crude (R,R)-1,1'-bis(1-hydroxyethyl)ferrocene were dissolved in 30 ml of pyridine and admixed with 30 ml of acetic anhydride. After stirring for 16 hours at 25° C., the excess anhydride was hydrolysed with 200 ml of ice water and the mixture was extracted three times with 100 ml each Time of diethyl ether. The combined organic phases were washed once more with about 150 ml of water, dried over magnesium sulphate and evaporated. The residue was admixed with 200 ml of hexane and the solvent was removed on a rotary evaporator (<40° C). This procedure was repeated two more times. The resulting dark brown oil was dissolved in 200 ml of isopropyl alcohol and admixed with 120 ml of dimethylamine (50% in water). After stirring at 25° C. (16 hours), 200 ml of water were added and the pH of the reaction mixture was adjusted to 1 using 100 ml of 32% strength HCl and the aqueous phase was washed twice with 100 ml each time of diethyl ether. The aqueous phase was basified with sodium hydroxide solution (40% strength) to a pH of 12-14 and extracted three times with 100 ml each time of diethyl ether. The combined organic phases were dried over magnesium sulphate and evaporated. In order to remove isopropyl alcohol still present, the oil obtained was admixed with about 100 ml of hexane and again evaporated on a rotary evaporator. This procedure was repeated two more times. Drying in a high vacuum gave 24.1 g (66%, based on 1,1'-diacetylferrocene) of the title compound in the form of a dark brown oil. (Without hydrochloric acid treatment, the yield rises to 86%).

reactant | (R,R)-1,1'-bis(1-hydroxyethyl)ferrocene | about 111 mmol, 32.7 g | O[C@H](C)[C-]1C=CC=C1.[C-]1(C=CC=C1)[C@@H](C)O.[Fe+2]
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hexane | about 100 ml | CCCCCC | C6H14
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | (R,R)-1,1'-Bis[1-(dimethylamino)ethyl]ferrocene | CN([C@H](C)[C-]1C=CC=C1)C.[C-]1(C=CC=C1)[C@@H](C)N(C)C.[Fe+2] | InChI=1S/2C9H14N.Fe/c2*1-8(10(2)3)9-6-4-5-7-9;/h2*4-8H,1-3H3;/q2*-1;+2/t2*8-;/m11./s1
